US08242143B2
2-(2-methylphenyl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine
2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine (1.0 mmol, 234 mg), 2-methylphenylboronic acid (2.0 mmol, 272 mg), dichlorobis(triphenylphosphine)palladium(II) (0.05 mmol, 35 mg), and potassium carbonate (3.5 mmol, 500 mg) were added to deoxygenated DME:water (1:1, 5 mL) at room temperature. The reaction was heated for 18 h at 80° C., then partitioned in a separatory funnel with EtOAc (100 mL) and water (30 mL). The organic layer was washed with one additional portion of water (20 mL) and the combined aqueous layers back extracted with EtOAc (50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was chromatographed on SiO2, eluting with a 0% to 60% EtOAc gradient in hexanes, to afford the title compound as a tan solid, which was dissolved in ether and precipitated as the hydrochloride salt with 1M HCl in ether. 1H-NMR (CD3OD, 500 MHz) δ 9.14 (s, 1H), 8.76 (d, 1H), 8.18 (d, 1H), 8.03 (s, 1H), 7.44-7.61 (m, 4H), 2.76 (s, 3H), 2.26 (s, 3H). MS (ESI) 291.2 (M+H+).

reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | 1.0 mmol, 234 mg | ClC1=NC=C(C=C1)C#CC=1N=C(SC1)C | C11H7ClN2S
reactant | 2-methylphenylboronic acid | 2.0 mmol, 272 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 3.5 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-methylphenyl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | CC1=C(C=CC=C1)C1=NC=C(C=C1)C#CC=1N=C(SC1)C | C18H14N2S
